US08871756B2
3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoyl chloride
To a solution of 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoic acid (270 mg, 0.94 mmol) in dichloromethane (10 mL) was added oxalyl chloride (0.16 mL, 1.88 mmol), followed by N,N-dimethylformamide (1 drop). After the gas ceased to produce, the reaction mixture was stirred at room temperature for 2 hours. After the mixture was concentrated in vacuo, the residue was diluted with dichloromethane and concentrated in vacuo again to afford 280 mg of the product (yield was 90%), which was used for next step without purification.

reactant | 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoic acid | 0.94 mmol, 270 mg | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)O)C(F)(F)F | C12H8F3NO4
reactant | oxalyl chloride | 1.88 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanoyl chloride | 280 mg, yield was 90% | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)Cl)C(F)(F)F | C12H7ClF3NO3
